US07402684B2
(R)-2-[4-(Benzooxazol-2-yloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
To a 25 mL vial which contained a suspension of -(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (293 mg, 1 mmol) and dry Cs2CO3 (400 mg, 1.2 mmol) in anhydrous acetone (15 mL) was added 2-chloro-benzooxazole (154 mg, 1 mmol) at rt. The reaction mixture which resulted was allowed to stir at rt for 72 h. The mixture was poured onto 100 mL ice-water solution and this solution was allowed to stir at 0° C. for 1 h. The solid formed was filtered out, dried through air to provide the title product (300 mg, 75%); LCMS; 88% APCI+, Calcd: 410.50. Found m/z: 411.28 (M+1). 1H NMR (400 MHz, CDCl3); δ 1.48 (s, 9H), 1.78-2.01 (m, 4H), 3.28-3.46 (m, 2H), 3.73-3.97 (m, 1H), 4.08-4.21 (m 2H), 6.93-7.02 (m, 2H), 7.18-7.33 (m, 4H), 7.41 (d, J=7.2 Hz, 1H), 7.50 (d, J=7.2 Hz, 1H)

reactant | (4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1 mmol, 293 mg | C(C)(C)(C)OC(=O)N1C(CCC1)COC1=CC=C(C=C1)O | C16H23NO4
reactant | Cs2CO3 | 1.2 mmol, 400 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chloro-benzooxazole | 1 mmol, 154 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | (R)-2-[4-(Benzooxazol-2-yloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 300 mg, 75% | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)OC=1OC2=C(N1)C=CC=C2 | C23H26N2O5
